US07417057B2
Step B Synthesis of 3-(3-Methylphenoxy)propanoic Acid (i) as an Intermediate
This compound was prepared in a manner analogous to that of Step C of Example 2, by the reaction of 2.0 grams (0.012 mole) of 3-(3-methylphenoxy)propan-1-ol and 10 mL of Jones Reagent in 30 mL of acetone. The yield of subject compound was 1.5 grams. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(3-methylphenoxy)propan-1-ol | 0.012 mole, 2.0 grams | CC=1C=C(OCCCO)C=CC1 | C10H14O2
reactant | Jones Reagent | 10 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 3-(3-Methylphenoxy)propanoic Acid | CC=1C=C(OCCC(=O)O)C=CC1 | C10H12O3
